US04613676
Z-Phe-His-Leu-Val-Ile-Sta-NH2
In a manner analogous to that described in Example 1, using as starting materials 125 mg of Z-Phe-His-OH, 110 mg of H-Leu-Val-Ile-Sta-NH2, 44 mg of HOBt and 68 mg of DCCI, the title compound is obtained after flash chromatography (65 g of silica gel 60, 40-63 μm, eluant system B7). Rf (B7)=0.20, Rf (B11)=0.64.

reactant | Z-Phe-His-OH | 125 mg | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C23H24N4O5
reactant | H-Leu-Val-Ile-Sta-NH2 | 110 mg | N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(C)C)[C@@H](O)CC(=O)N | C25H49N5O5
reactant | HOBt | 44 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCCI | 68 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | Z-Phe-His-Leu-Val-Ile-Sta-NH2 | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(C)C)[C@@H](O)CC(=O)N)C(=O)OCC1=CC=CC=C1 | C48H71N9O9
